US07601736B2
5-iodo-2-methoxy-4,6-dimethyl-nicotinonitrile (1.6 g, 5.554 mmol), Pd(PPh3)4 (642 mg, 0.555 mmol), phenyl boronic acid (1.05 g, 8.331 mmol), and anhydrous potassium carbonate (1.54 g, 11.11 mmol) were suspended in the mixed solution of 60 mL of anhydrous toluene and 3 mL of anhydrous ethanol, and then heated to reflux for about 72 hours under the nitrogen atmosphere. The mixture was filtered, added with 100 mL of a saturated solution of ammonium chloride and then extracted twice with 100 mL of methylene chloride. The resulting organic layer was dried with anhydrous sodium sulfate, and then concentrated. A silica gel column chromatography (5% EtOAc/Hexanes) was performed on the resulting residue and 1.04 g (78%) of 2-methoxy-4,6-dimethyl-5-phenyl-nicotinonitrile was obtained in pale yellow solid.

reactant | 5-iodo-2-methoxy-4,6-dimethyl-nicotinonitrile | 5.554 mmol, 1.6 g | IC=1C(=NC(=C(C#N)C1C)OC)C | C9H9IN2O
reactant | phenyl boronic acid | 8.331 mmol, 1.05 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 11.11 mmol, 1.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.555 mmol, 642 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 2-methoxy-4,6-dimethyl-5-phenyl-nicotinonitrile | 1.04 g, 78% | COC1=C(C#N)C(=C(C(=N1)C)C1=CC=CC=C1)C | C15H14N2O
